US04788304
2-(5-Phenyl-1-oxopentyl)-2-oxiranecarboxylic acid methyl ester
To a suspension of 7.6 g (35.4 mmol) of pyridinium chlorochromate and 2.90 g (35.4 mmol) of anhydrous sodium acetate in 100 ml of methylene chloride is added 1.55 g (5.9 mmol) of 2-(5-phenyl-1-hydroxypentyl)-2-oxiranecarboxylic acid methyl ester. The mixture is stirred at room temperature for 3 hours and then is diluted with ethyl ether. Filtration through Florisil and rotoevaporation gives an oil which is subjected to preparative column chromatography on silica gel (hexane:ethyl ether (3:2)). The appropriate fractions are combined and rotoevaporated to give 670 mg (43.3%) of the title compound: IR (film) 1757, 1723 cm-1 ; NMR (CDCl3) δ 1.65 (4H, m), 2.48-2.65 (4H, mc), 3.06 (1H, d, J=6 Hz), 3.33 (1H, d, J=6 Hz), 3.83 (3H, s), 7.21 (3H, m), 7.30 (2H, m).

reactant | pyridinium chlorochromate | 35.4 mmol, 7.6 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
reactant | sodium acetate | 35.4 mmol, 2.90 g | C(C)(=O)[O-].[Na+]
reactant | 2-(5-phenyl-1-hydroxypentyl)-2-oxiranecarboxylic acid methyl ester | 5.9 mmol, 1.55 g | COC(=O)C1(OC1)C(CCCCC1=CC=CC=C1)O | C15H20O4
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl ether | C(C)OCC | C4H10O
product | 2-(5-Phenyl-1-oxopentyl)-2-oxiranecarboxylic acid methyl ester | 670 mg, 43.3% | COC(=O)C1(OC1)C(CCCCC1=CC=CC=C1)=O | C15H18O4
